US05571809
a) 6,11-Dihydro-8-methoxycarbonyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
A stirred mixture of 1.66 g (0.010 mol) of 4-methoxycarbonyl-o-phenylene-diamine and 1.58 g (0.010 mol) of 2-chloronicotinic acid in 5 ml of 2-butoxyethanol was heated to 140° C. for 2 h, during which time a dark solution, followed by formation of a green solid, was observed. The reaction mixture was poured into 50 ml of water and the solid collected and stirred in 10% sodium carbonate solution for 1 h. The resulting solid was collected, washed thoroughly with water, dried and crystallized from DMF to yield 1.1 g (40% of theory) of a beige crystalline product, m.p. 344°-349° C.

reactant | 4-methoxycarbonyl-o-phenylene-diamine | 0.010 mol, 1.66 g | COC(=O)C1=CC(=C(C=C1)N)N | C8H10N2O2
reactant | 2-chloronicotinic acid | 0.010 mol, 1.58 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | water | 50 ml | O | H2O
solvent | 2-butoxyethanol | 5 ml | C(CCC)OCCO | C6H14O2
product | 6,11-Dihydro-8-methoxycarbonyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | COC(=O)C=1C=CC2=C(NC(C3=C(N2)N=CC=C3)=O)C1 | C14H11N3O3
